US07642264B2
2-Chloro-4-methyl-thiazole-5-sulfonic acid tert-butylamide
To a stirred solution of commercially available tert-butylamine (3.76 mL, 35.5 mmol) in saturated NaHCO3 solution (30 mL) and ethyl acetate (50 mL) was added at 0° C. (ice water bath) a solution of commercially available 2-chloro-4-methyl-thiazole-5-sulfonyl chloride [CAS-No. 292138-59-1] (5.0 g, 21.5 mmol). The reaction mixture was stirred at room temperature for 16 h, ethyl acetate (50 mL) was added followed by extraction. The water layer was again extracted with ethyl acetate (50 mL). The combined organic layers were washed with 2N HCl solution (40 mL) and brine (40 mL), dried (MgSO4) and evaporated to yield the title compound (4.57 g, 79%) as a yellow solid. MS (ISN) 267.3 [(M−H)−].

reactant | tert-butylamine | 35.5 mmol, 3.76 mL | C(C)(C)(C)N | C4H11N
reactant | 2-chloro-4-methyl-thiazole-5-sulfonyl chloride | 21.5 mmol, 5.0 g | ClC=1SC(=C(N1)C)S(=O)(=O)Cl | C4H3Cl2NO2S2
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-methyl-thiazole-5-sulfonic acid tert-butylamide | 4.57 g, 79% | C(C)(C)(C)NS(=O)(=O)C1=C(N=C(S1)Cl)C | C8H13ClN2O2S2
